// Generated for: spectre
// Generated on: Apr 17 15:26:56 2024
// Design library name: EE4902
// Design cell name: ResistiveFeedbackLNA
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters m1=20 m2=80 Rf=300 Ib=10u Ls=1p Lg=100n circ_temp=27 VDD=0.9 frf=1.58G prf=-40 
include "/cad/library/TSMC/tsmc_28/28/28HPC_RF/tn28crsp029w1_1_8_2p2a/tsmcN28/../models/spectre/toplevel.scs" section=TOP_TT

// Library name: EE4902
// Cell name: ResistiveFeedbackLNA
// View name: schematic
M0 (net3 net7 net6 net6) nmos_rf_nw multi=m1 dw1=-1.4923e-20 lr=30n nr=4 \
        sa=489.339n sa1=450.382n sa2=480.62n sa3=517.531n sa4=488.164n \
        sa5=495.907n sa6=512.134n sa7=450.098n sap=171.021n sapb=182.229n \
        sb=489.339n sb1=450.382n sb2=480.62n sb3=517.531n sca=2.93321 \
        scb=7.2676e-05 scc=3.63156e-09 sodx=80n sodx1=308.909n \
        sodx2=927.325n sodx4=352.412n sodxa=80n sodxb=80n sody=505.00n \
        spa=100n spa1=100n spa2=100n spa3=100n spba=115.715n \
        spba1=117.043n sd=100n spmb=1.11111e+15 spmt=1.11111e+15 spomb=0 \
        spomb1=1.11111e+60 spomt=0 spomt1=1.11111e+60 wr=600n dinsaflag=0 \
        ngcon=2 sobn=835.00n sobe=410.0n sobs=835.00n sobw=410.0n cbflag=2 \
        rcmflag=1
M1 (net3 Vbias vdd! vdd!) pmos_rf_nw multi=m2 dw1=-1.4923e-20 lr=30n nr=4 \
        sa=489.339n sa1=450.382n sa2=480.62n sa3=517.531n sa4=488.164n \
        sa5=495.907n sa6=512.134n sa7=450.098n sap=171.021n sapb=182.229n \
        sb=489.339n sb1=450.382n sb2=480.62n sb3=517.531n sca=2.93321 \
        scb=7.2676e-05 scc=3.63156e-09 sodx=80n sodx1=308.909n \
        sodx2=927.325n sodx4=352.412n sodxa=80n sodxb=80n sody=505.00n \
        spa=100n spa1=100n spa2=100n spa3=100n spba=115.715n \
        spba1=117.043n sd=100n spmb=1.11111e+15 spmt=1.11111e+15 spomb=0 \
        spomb1=1.11111e+60 spomt=0 spomt1=1.11111e+60 wr=600n dinsaflag=0 \
        ngcon=2 sobn=835.00n sobe=410.0n sobs=835.00n sobw=410.0n cbflag=2 \
        rcmflag=1
M2 (Vbias Vbias vdd! vdd!) pmos_rf_nw multi=1 dw1=-1.4923e-20 lr=30n nr=4 \
        sa=489.339n sa1=450.382n sa2=480.62n sa3=517.531n sa4=488.164n \
        sa5=495.907n sa6=512.134n sa7=450.098n sap=171.021n sapb=182.229n \
        sb=489.339n sb1=450.382n sb2=480.62n sb3=517.531n sca=2.93321 \
        scb=7.2676e-05 scc=3.63156e-09 sodx=80n sodx1=308.909n \
        sodx2=927.325n sodx4=352.412n sodxa=80n sodxb=80n sody=505.00n \
        spa=100n spa1=100n spa2=100n spa3=100n spba=115.715n \
        spba1=117.043n sd=100n spmb=1.11111e+15 spmt=1.11111e+15 spomb=0 \
        spomb1=1.11111e+60 spomt=0 spomt1=1.11111e+60 wr=600n dinsaflag=0 \
        ngcon=2 sobn=835n sobe=410n sobs=835n sobw=410n cbflag=2 rcmflag=1
R0 (net2 net3) resistor r=Rf
I0 (Vbias 0) isource dc=Ib type=dc
C0 (net1 net2) capacitor c=1u
C1 (net3 net4) capacitor c=1u
Vs (net1 0) port r=50 dc=0 type=sine freq=frf dbm=prf freq2=frf + 1M dbm2=prf \
        fundname="RF1" fundname2="RF2" mag = 1
E0 (Vout 0 net4 0) vcvs gain=1.0
V0 (vdd! 0) vsource dc=VDD type=dc
PORT2 (Vout 0) port r=50 dc=0 type=dc
L1 (0 net6) inductor l=Ls
L0 (net2 net7) inductor l=Lg
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=circ_temp tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 

Settings options rawfmt=psfascii 
hbtest  hb  autoharms=yes  autotstab=yes  oversample=[1  1] funds=["RF1"  "RF2"]  maxharms=[3  3]  errpreset=moderate annotate=status save=all
